US07893092B2
e) Preparation of thioacetic acid S-[2-(5-chloro-2-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3-methyl-benzoylamino)-1-methyl-ethyl]ester
To a solution of 2.55 g (9.7 mmol) triphenylphosphine in 250 ml THF is added at a temperature of 0° C. 2.25 g (9.7 mmol) diterbutylazodicarboxylate in 25 ml THF. The solution is stirred for 1 hour at a temperature of 0° C. Then 0.35 ml (4.85 mmol) thioacetic acid is added and a white suspension is formed immediately. After that, a solution of 2.5 g (4.85 mmol) 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [4-chloro-2-(2-hydroxy-propylcarbamoyl)-6-methyl-phenyl]-amide in 30 ml THF is slowly added at a temperature of 0° C. The solution is stirred for 1 hour at a temperature of 0° C., and then 15 hours at 25° C., and then evaporated. The residue is submitted to flash-chromatography (ethyl acetate 1, hexane 2) to give 2.45 g (88%) white crystals (m.p. 137-139° C.).

reactant | triphenylphosphine | 9.7 mmol, 2.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thioacetic acid | 4.85 mmol, 0.35 ml | C(C)(=S)O | C2H4OS
reactant | 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [4-chloro-2-(2-hydroxy-propylcarbamoyl)-6-methyl-phenyl]-amide | 4.85 mmol, 2.5 g | ClC1=CC(=C(C(=C1)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)C(NCC(C)O)=O | C21H18Cl2F3N5O3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | thioacetic acid S-[2-(5-chloro-2-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3-methyl-benzoylamino)-1-methyl-ethyl]ester | 2.45 g, 88% | ClC=1C=C(C(=C(C(=O)NCC(C)SC(C)=O)C1)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)C | C23H20Cl2F3N5O3S
